US07259183B2
Preparation of 5′-bromo-2′,3′dihydro-spiro [cyclopropane1,1′-[1H]indene]
The title compound was synthesized in analogy to example S87 using diethyl zinc (3.25 ml, 1M solution in hexane, 3.25 mmol), trifluoroacetic acid (251 μl, 3.25 mmol), CH2I2 (262 μl, 3.25 mmol) and 5-bromo-1-methyleneindan (340 mg, 1.63 mmol). The isolated residue was purified by flash column chromatography (100% pentane) to give 5′-bromo-2′,3′dihydro-spiro[cyclopropane1,1′-[1H]indene](345 mg, 95%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 7.40-7.29 (m, 3H), 3.02 (apt t, J=7.5 Hz, 2H), 2.11 (apt t, J=7.5 Hz, 2H), 0.96-0.84 (m, 4H).

reactant | diethyl zinc | 3.25 mmol, 1M, 3.25 ml | C(C)[Zn]CC
reactant | trifluoroacetic acid | 3.25 mmol, 251 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2I2 | 3.25 mmol, 262 μl | C(I)I | CH2I2
reactant | 5-bromo-1-methyleneindan | 1.63 mmol, 340 mg | BrC=1C=C2CCC(C2=CC1)=C | C10H9Br
product | 5′-bromo-2′,3′dihydro-spiro[cyclopropane1,1′-[1H]indene] | 345 mg, 95% | BrC=1C=C2CCC3(C2=CC1)CC3 | C11H11Br
